US09062070B2
Oxalyl chloride (20 mL) was added dropwise at 0° C. to a suspension of 4-bromo-2-fluoro-3-methoxybenzoic acid (8.30 g, 33.3 mmol) in 100 mL of DCM with 0.5 mL of DMF. The mixture was stirred at 25° C. for 2 hours and the clear solution was concentrated to dryness under reduced pressure. The residue dissolved in 60 mL of anhydrous acetonitrile was added to 600 mL of aqueous NH3.H2O at 0° C. and stirred for 2 hours then extracted with EtOAc twice. The combined EtOAc layer was washed with water and brine, dried over anhydrous Na2SO4 and concentrated. The residue (6.9 g) was dissolved in 60 mL of DMF and cooled to 0° C. with ice/water bath. Cyanuric chloride (7.70 g, 41.7 mmol) was added and stirred for 2 hours at 0° C. before poured to ice/water. The solid was collected by filtration and was washed with water, dissolved in DCM, dried over anhydrous Na2SO4 and concentrated to afford 4-bromo-2-fluoro-3-methoxybenzonitrile.

reactant | Oxalyl chloride | 20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo-2-fluoro-3-methoxybenzoic acid | 33.3 mmol, 8.30 g | BrC1=C(C(=C(C(=O)O)C=C1)F)OC | C8H6BrFO3
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | Cyanuric chloride | 41.7 mmol, 7.70 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-fluoro-3-methoxybenzonitrile | BrC1=C(C(=C(C#N)C=C1)F)OC | C8H5BrFNO
